US06627644B2
To a solution of the 4-({ethyl-[7-(2,2,2-trifluoro-acetylamino)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amino}-methyl)-piperidine-1-carboxylic acid isopropylamide (630 mg, 1.3 mmol) in methanol (20 mL) and water (10 mL) was added potassium carbonate (500 mg) and the reaction was allowed to stir at room temperature for 24 h. The reaction was concentrated in vacuo and partitioned between EtOAc and water. The organic layer was washed with brine, dried (MgSO4) and concentrated to afford 4-{[(7-amino-1,2,3,4-tetrahydro-naphthalen-2-yl)-ethyl-amino]-methyl}-piperidine-1-carboxylic acid isopropylamide as a light brown oil (464 mg).

reactant | 4-({ethyl-[7-(2,2,2-trifluoro-acetylamino)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amino}-methyl)-piperidine-1-carboxylic acid isopropylamide | 1.3 mmol, 630 mg | C(C)(C)NC(=O)N1CCC(CC1)CN(C1CC2=CC(=CC=C2CC1)NC(C(F)(F)F)=O)CC | C24H35F3N4O2
reactant | potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 4-{[(7-amino-1,2,3,4-tetrahydro-naphthalen-2-yl)-ethyl-amino]-methyl}-piperidine-1-carboxylic acid isopropylamide | 464 mg | C(C)(C)NC(=O)N1CCC(CC1)CN(CC)C1CC2=CC(=CC=C2CC1)N | C22H36N4O
